US05319096
N-(t-Butoxycarbonylamino)-1H-indole
To a stirred solution of 10.0 g of N-aminoindole in 50 ml of dry THF was added 18.2 g of di-t-butyl dicarbonate in 50 ml of dry THF. The mixture was heated to 50° C. and stirred at that temperature for 16 hours under nitrogen. The solution was concentrated to an oil and purified by HPLC to provide, after crystallization from heptane/ethyl acetate, 8.20 g of N-(t-butoxycarbonylamino)-1H-indole, m.p. 112°-116° C.

reactant | N-aminoindole | 10.0 g | NN1C=CC2=CC=CC=C12 | C8H8N2
reactant | di-t-butyl dicarbonate | 18.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | N-(t-Butoxycarbonylamino)-1H-indole | C(C)(C)(C)OC(=O)NN1C=CC2=CC=CC=C12 | C13H16N2O2
